US06900354B2
b) 3-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid methyl ester
A mixture of 1.2 g (3.7 mmol) of 1-(3-fluorobenzyloxy)-4-iodo-benzene, 2.06 g (14.9 mmol) of potassium carbonate and 1.70 g (52.8 mmol) of tetrabutyl ammonium bromide in 10 ml of dimethylformamide is treated under Ar with 48 mg (0.21 mmol) of palladium-(II)-acetate. 1.49 g (14.9 mmol) of methyl methacrylate is added and the mixture heated at 90° C. for about 40 min. The reaction mixture is poured into 150 ml dichloromethane, filtered and washed successively with 0.1 molar hydrochloric acid, saturated aqueous sodium hydrogencarbonate and water. The solution is dried over magnesium sulfate. Flash chromatography (silica gel, hexane/ethyl acetate 95:5) yields 461 mg (42%) of a colorless solid. MS: m/e=301.3 (M++H).

reactant | 1-(3-fluorobenzyloxy)-4-iodo-benzene | 3.7 mmol, 1.2 g | FC=1C=C(COC2=CC=C(C=C2)I)C=CC1 | C13H10FIO
reactant | potassium carbonate | 14.9 mmol, 2.06 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl methacrylate | 14.9 mmol, 1.49 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | tetrabutyl ammonium bromide | 52.8 mmol, 1.70 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | palladium-(II)-acetate | 0.21 mmol, 48 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-[4-(3-Fluoro-benzyloxy)-phenyl]-2-methyl-acrylic acid methyl ester | 461 mg, 42% | COC(C(=CC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)C)=O | C18H17FO3
